US06476029B1
2-Ethoxy-benzamidine hydrochloride
21.4 g (400 mmol) of ammonium chloride are suspended in 375 ml of toluene, and the suspension is cooled to 0° C. 200 ml of a 2M solution of trimethylaluminium in hexane are added dropwise, and the mixture is stirred at room temperature until evolution of gas has ceased. 29.44 g (200 mmol) of 2-ethoxybenzonitrile are added, and the reaction mixture is then stirred at 80° C. (bath) overnight. The cooled reaction mixture is, with ice-cooling, added to a suspension of 100 g of silica gel and 950 ml of chloroform, and the mixture is stirred at room temperature for 30 minutes. The mixture is filtered off with suction and the filter residue is washed with the same amount of methanol. The mother liquor is evaporated, the resulting residue is stirred with a mixture of dichloromethane and methanol (9:1), the solid is filtered off with suction and the mother liquor is evaporated. This gives 30.4 g (76%) of a colourless solid.

reactant | ammonium chloride | 400 mmol, 21.4 g | [Cl-].[NH4+]
reactant | trimethylaluminium | C[Al](C)C
reactant | 2-ethoxybenzonitrile | 200 mmol, 29.44 g | C(C)OC1=C(C#N)C=CC=C1 | C9H9NO
reactant | chloroform | 950 ml | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 375 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-Ethoxy-benzamidine hydrochloride | Cl.C(C)OC1=C(C(=N)N)C=CC=C1 | InChI=1S/C9H12N2O.ClH/c1-2-12-8-6-4-3-5-7(8)9(10)11;/h3-6H,2H2,1H3,(H3,10,11);1H
